US06291452B1
A mixture of 2-(4-chlorobutanoyl)-6-methylaniline (538 mg) and potassium t-butoxide (285 mg) in tetrahydrofuran (8 ml) was stirred at room temperature for 1.5 hour. Ethyl acetate and 0.1 N aqueous hydrochloric acid were added to the reaction mixture. The separated organic layer was washed with water, saturated aqueous sodium bicarbonate and brine successively and dried over magnesium sulfate. Removal of the solvent in vacuo gave 2-cyclopropylcarbonyl-6-methylaniline (445 mg, 100.0%) as a crystalline powder.

reactant | 2-(4-chlorobutanoyl)-6-methylaniline | 538 mg | ClCCCC(=O)C1=C(N)C(=CC=C1)C | C11H14ClNO
reactant | potassium t-butoxide | 285 mg | CC(C)([O-])C.[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-cyclopropylcarbonyl-6-methylaniline | 445 mg, 100.0% | C1(CC1)C(=O)C1=C(N)C(=CC=C1)C | C11H13NO
